US07645789B2
A mixture of 6-chloromethyl-4-fluoro-benzo[1,3]dioxole (0.80 g, 4.3 mmol) and NaCN (417 mg, 8.51 mmol) in DMSO (20 mL) was stirred at 30° C. for 1 h and was then poured into water. The mixture was extracted with EtOAc (50 mL×3). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried over Na2SO4 and evaporated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=10/1) to afford 2-(7-fluorobenzo[d][1,3]dioxol-5-yl)acetonitrile (530 mg, 70%). 1H NMR (300 MHz, CDCl3) δ 6.68-6.64 (m, 2H), 6.05 (s, 2H), 3.65 (s, 2H). 13C-NMR δ151.1, 146.2, 134.1, 124.2, 117.5, 110.4, 104.8, 102.8, 23.3.

reactant | 6-chloromethyl-4-fluoro-benzo[1,3]dioxole | 4.3 mmol, 0.80 g | ClCC=1C=C(C2=C(OCO2)C1)F | C8H6ClFO2
reactant | NaCN | 8.51 mmol, 417 mg | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-(7-fluorobenzo[d][1,3]dioxol-5-yl)acetonitrile | 530 mg, 70% | FC1=CC(=CC2=C1OCO2)CC#N | C9H6FNO2
